US05482948
c) Methyl 6-(3-aminophenyl)-6-(3-pyridyl)hex-5-enoate
65 g of 6-(3-acetylaminophenyl)-6-(3-pyridyl)hex-5-enoic acid are refluxed for 4 hours in a mixture of 400 ml of methanol and 200 ml of methanolic hydrochloric acid. The solvent is removed and the residue is taken up in water. The aqueous phase is washed with ethyl acetate and adjusted to pH 8-9 by the addition of 4N sodium hydroxide solution. The aqueous phase is extracted with ethyl acetate. The organic phase is washed, dried and evaporated down.

reactant | 6-(3-acetylaminophenyl)-6-(3-pyridyl)hex-5-enoic acid | 65 g | C(C)(=O)NC=1C=C(C=CC1)C(=CCCCC(=O)O)C=1C=NC=CC1 | C19H20N2O3
reactant | methanol | 400 ml | CO | CH4O
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | Methyl 6-(3-aminophenyl)-6-(3-pyridyl)hex-5-enoate | NC=1C=C(C=CC1)C(=CCCCC(=O)OC)C=1C=NC=CC1 | C18H20N2O2
